US06333441B1
At the end of reaction, 50 ml of a saturated ammonium chloride aqueous solution and 100 ml of n-hexane were added to the reaction solution. The organic layer was extracted, dried over magnesium sulfate, and filtered. By distilling off the solvent, there was obtained 12 grams of 2-undecene in a substantially quantitative yield.

reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | n-hexane | 100 ml | CCCCCC | C6H14
product | 2-undecene | 12 grams, quantitative yield | CC=CCCCCCCCC | C11H22
